US07427632B2
4-{2-[(3-Chloro-1H-indole-6-carbonyl)amino]-2-(2-chloro-phenyl)ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester
Using coupling method A, 4-[2-amino-2-(2-chlorophenyl)-ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester (7.5 g, 20 mmol) and 3-chloroindole-6-carboxylic acid (3.9 g, 20 mmol) afforded, after purification (SiO2: 33% to 50% EtOAc in hexane), 8 g (73%) of the title compound.

reactant | 4-[2-amino-2-(2-chlorophenyl)-ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester | 20 mmol, 7.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1=C(C=CC=C1)Cl)N | C19H29ClN2O3
reactant | 3-chloroindole-6-carboxylic acid | 20 mmol, 3.9 g | ClC1=CNC2=CC(=CC=C12)C(=O)O | C9H6ClNO2
product | 4-{2-[(3-Chloro-1H-indole-6-carbonyl)amino]-2-(2-chloro-phenyl)ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1=C(C=CC=C1)Cl)NC(=O)C1=CC=C2C(=CNC2=C1)Cl | C28H33Cl2N3O4
